US08293909B2
Methyl 6-iodo-2-phenylpyrazolo[1,5-a]pyridine-3-carboxylate.
Dichloromethane (10 mL) and 3-Iodopyridine (928 mg, 4.53 mmol) were charged to a 100 mL round-bottomed flask equipped with a magnetic stir bar. This colorless solution was cooled on an ice bath and O-(mesitylsulfonyl)hydroxylamine (975 mg, 4.53 mmol) in dichloromethane (10 mL) was added dropwise over 5 minutes. After to stirring at room temperature for 30 minutes, the solvent was removed by rotory evaporation to give a white solid. Methyl phenylpropiolate (1000 mg, 6.24 mmol) was added in dimethylformamide (9 mL). Potassium carbonate (2504 mg, 18.12 mmol) was added. Reaction slowly turned dark green. After stirring at room temp for 2 hours, the reaction was poured into diethyl ether (300 mL and extracted 8×25 mL water. The solvent was removed from the organic portion by rotory evaporation. The crude product was dissolved in a minimum amount of dichloromethane and charged to a 90 g “Single Sep” silica gel cartridge and eluted with 0 to 40% ethyl acetate in hexanes over 1000 mL. The title compound (200 mg, 12%) was isolated as an orange solid. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 3.83 (s, 3H) 7.46 (m, 3H) 7.59 (dd, J=9.16, 1.53 Hz, 1H) 7.75 (m, 2H) 8.00 (dd, J=9.31, 0.76 Hz, 1H) 8.82 (s, 1H). LCMS: 2.4 minutes, M+1=379.

reactant | 3-Iodopyridine | 4.53 mmol, 928 mg | IC=1C=NC=CC1 | C5H4IN
reactant | O-(mesitylsulfonyl)hydroxylamine | 4.53 mmol, 975 mg | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | Methyl phenylpropiolate | 6.24 mmol, 1000 mg | C1(=CC=CC=C1)C#CC(=O)OC | C10H8O2
reactant | Potassium carbonate | 18.12 mmol, 2504 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 6-iodo-2-phenylpyrazolo[1,5-a]pyridine-3-carboxylate | 200 mg, 12% | IC=1C=CC=2N(C1)N=C(C2C(=O)OC)C2=CC=CC=C2 | C15H11IN2O2
